US05530019
To a mixture of 1-(4-isobutylphenyl)pentanol and carbon tetrabromide in tetrahydrofuran was added triphenylphosphine and the mixture was stirred at room temperature for 1 hour. Insoluble materials were removed by filtration and the filtrate was concentrated. Hexane was added to the residue and the mixture was filtered again. Concentration of the filtrate gave crude 1-bromo-1-(4-isobutylphenyl)pentane. Sodium was added portionwise to 1,3-propanediol at 80° C. while stirring. The obtained crude 1-bromo-1-(4-isobutylphenyl)pentane was added thereto, and the mixture was stirred at 120° C. for 30 minutes. After the mixture was cooled, diluted hydrochloric acid was added thereto, and the mixture was extracted with ethyl acetate.

reactant | 1-(4-isobutylphenyl)pentanol | C(C(C)C)C1=CC=C(C=C1)C(CCCC)O | C15H24O
reactant | carbon tetrabromide | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-bromo-1-(4-isobutylphenyl)pentane | BrC(CCCC)C1=CC=C(C=C1)CC(C)C | C15H23Br
